US07402581B2
2-(4-Fluoro-2-methylphenyl)-4-(tetrahydro-2H-pyran-2-yloxy)butanenitrile (4.5 g, 16 mmol) was dissolved in ethanol (40 mL) and concentrated NH4OH aq (20 mL). Raney® nickel suspended in water (one teaspoonful) was added and the mixture was alternately evacuated and flushed with H2. The mixture was then stirred under H2 at room temperature until the consumption of gas ceased. The catalyst was removed with a magnet and the mixture was then filtrated and the solvent was evaporated. There was obtained 4.1 g (90%) of [2-(4-fluoro-2-methylphenyl)-4(tetrahydro-2H-pyran-2-yloxy)butyl]amine as a pale blue oil. 1H NMR (500 MHz, CDCl3): 1.4-2.0 (m, 8H), 2.4 (d, 3H), 3.2-3.8 (m, 6H), 4.4-4.6 (d, 1H), 6.9 (d, 2H), 7.1-7.2 (b, 1H).

reactant | 2-(4-Fluoro-2-methylphenyl)-4-(tetrahydro-2H-pyran-2-yloxy)butanenitrile | 16 mmol, 4.5 g | FC1=CC(=C(C=C1)C(C#N)CCOC1OCCCC1)C | C16H20FNO2
reactant | NH4OH | 20 mL | [NH4+].[OH-]
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | water | O | H2O
catalyst | Raney® nickel | [Ni] | Ni
product | [2-(4-fluoro-2-methylphenyl)-4(tetrahydro-2H-pyran-2-yloxy)butyl]amine | 4.1 g, 90% | FC1=CC(=C(C=C1)C(CN)CCOC1OCCCC1)C | C16H24FNO2
